US05288866
Preparation of 5-(Methoxymethyl)-2,3-pyridinedicarboxylic acid
A mixture of 25% sodium methoxide in methanol (270 g, 1.25 mol) and [(5,6-dicarboxy-3pyridyl)-methyl]trimethylammonium bromide, dimethyl ester (347 g, 1.00 mol) in methanol (650 mL) is heated at reflux for 1 hour under nitrogen. Water (1 L) and sodium hydroxide (80.0 g, 2.0 mol) are added and the reaction mixture is distilled until the pot is 100°-105° C. The reaction mixture is cooled to room temperature, treated with sulfuric acid to adjust the pH to a value from 1.5 to 2 and filtered to obtain a solid. The solid is washed with water and dried in a vacuum oven to obtain the title product as a white solid (mp 161°-162° C.) which is greater than 99% pure by HPLC analysis.

reactant | sodium methoxide | C[O-].[Na+]
reactant | Water | 1 L | O | H2O
reactant | sodium hydroxide | 2.0 mol, 80.0 g | [OH-].[Na+]
reactant | [(5,6-dicarboxy-3pyridyl)-methyl]trimethylammonium bromide | [Br-].C(=O)(O)C=1C=C(C=NC1C(=O)O)C[N+](C)(C)C
solvent | methanol | 650 mL | CO | CH4O
solvent | methanol | 1.25 mol, 270 g | CO | CH4O
product | 5-(Methoxymethyl)-2,3-pyridinedicarboxylic acid | COCC=1C=C(C(=NC1)C(=O)O)C(=O)O | C9H9NO5
